US04073911
The starting material is prepared as follows: The mixture of 50 g of 3-chlorobenzaldehyde, 41 g of malonic acid and 36 ml of pyridine is heated on the steam bath for 3 hours. The residue is dissolved in 200 ml of water, the solution acidified with hydrochloric acid, filtered, and the residue recrystallized from aqueous ethanol, to yield the 3-chlorocinnamic acid melting at 150°-152°.

reactant | 3-chlorobenzaldehyde | 50 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | malonic acid | 41 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | pyridine | 36 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | water | 200 ml | O | H2O
product | 3-chlorocinnamic acid | ClC=1C=C(C=CC(=O)O)C=CC1 | C9H7ClO2
